US07067540B2
Step 1: 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-prop-2-ynylpyridin-2(1H)-one.
The title compound was prepared by alkylation of 4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (2.5 g, 10 mmol) with propargyl bromide (1.3 ml, 11.0 mmol) as described above to give 1.3 g (44%) of the desired product. 1H-NMR (DMSOd6/300 MHz) δ 7.60 (app q, J=8.4 hz, 1H), 7.35-7.27 (m, 1H); 7.16-7.10 (m, 1H); 5.94 (d, J=2.1 Hz, 1H), 5.88 (d, J=3.0 Hz, 1H), 5.03 (s, 2H), 4.76 (d, J=2.4, Hz, 2H), 3,31 (s, 3H), 3.24 (t, J=2.4 Hz, 1H), 2.39 (s, 3H); ES-HRMS m/z 290.0994 (M+H calcd for C16H14F2NO2=290.0993).

reactant | 4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 10 mmol, 2.5 g | FC1=C(COC2=CC(NC(=C2)C)=O)C=CC(=C1)F | C13H11F2NO2
reactant | propargyl bromide | 11.0 mmol, 1.3 ml | C(C#C)Br | C3H3Br
product | 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-prop-2-ynylpyridin-2(1H)-one | 1.3 g, 44% | FC1=C(COC2=CC(N(C(=C2)C)CC#C)=O)C=CC(=C1)F | C16H13F2NO2
